US09382216B2
Step-3: tert-Butyl 3-(2-ethoxy-2-oxoethyl)morpholine-4-carboxylate
To a stirred solution of ethyl 2-(morpholin-3-yl)acetate (Step-2 intermediate) (1.4 g, 8.08 mmol) in dichloromethane (20 mL), triethylamine (1.690 mL, 12.12 mmol) and followed by (Boc)2O was added (2.81 mL, 12.12 mmol) at 0° C. The reaction mixture was allowed to RT and further stirred overnight. The reaction mixture was diluted with dichloromethane (15 mL), and washed with brine solution (2×8 mL) followed by DM water. The organic layer was separated, dried over Na2SO4 and concentrated. The crude compound was further purified by flash chromatography to give the title compound (700 mg, yield: 31.7%, three steps), m/z-boc 173.94.

reactant | ethyl 2-(morpholin-3-yl)acetate | 8.08 mmol, 1.4 g | N1C(COCC1)CC(=O)OCC | C8H15NO3
reactant | triethylamine | 12.12 mmol, 1.690 mL | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-Butyl 3-(2-ethoxy-2-oxoethyl)morpholine-4-carboxylate | 700 mg, yield: 31.7% | C(C)OC(CC1N(CCOC1)C(=O)OC(C)(C)C)=O | C13H23NO5
